US06028096
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(prop-2-ylamino)-4-trifluoroacetylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole (1 g) in anhydrous N,N-dimethylformnamide (4 ml) at room temperature was added potassium carbonate (0.7 g), then 2-iodopropane (190 μl). The mixture was stirred at room temperature for 48 hours. Water (50 ml) was then added, and the mixture was extracted with ether (50 ml, ×2). The combined organic layers were washed with water (50 ml), dried (Na2SO4) filtered and evaporated. The residue was purified by column chromatography on silica gel (50 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a very pale yellow solid, m.p 136-137° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole | 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C(F)(F)F)=O | C13H4Cl2F6N4O
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 190 μl | IC(C)C | C3H7I
solvent | Water | 50 ml | O | H2O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(prop-2-ylamino)-4-trifluoroacetylpyrazole | C(#N)C1=NN(C(=C1C(C(F)(F)F)=O)NC(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H10Cl2F6N4O
